US07285550B2
(c) N5-[1-(2,6-Dichloro-benzyl)-pyrrolidin-2-ylmethyl]-2-furan-2-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazine-5,7-diamine
2-Furan-2-yl-N5-pyrrolidin-2-ylmethyl-[1,2,4]-triazolo[1,5-a][1,3,5]triazine-5,7-diamine (0.15 mmol) was dissolved in 4 mL of CH2Cl2 along with 2 eq. of 2,6-dichlorobenzaldehyde and 25 mL of glacial acetic acid. The reaction mixture was stirred at room temperature for 30 minutes and sodium triacetoxyborohydride (4 eq.) was added in a single portion. The resulting reaction mixture was then stirred at room temperature for 18 hours. It was then concentrated under a stream of N2 and purified by preparative HPLC using a mixture of aqueous CH3CN that has been buffered with 0.1% TFA. 1H NMR (DMSO-d6) δ 7.60 (d, J=1.0 Hz, 1H), 7.28 (br s, 2H), 7.22 (d, J=3.6 Hz, 1H), 6.95-7.0 (m, 3H), 6.68 (dd, J=3.6 Hz, 1.0 Hz, 1H), 2.2-3.2 (m, 8H). MS: m/z: 460[M+H]+.

reactant | 2-Furan-2-yl-N5-pyrrolidin-2-ylmethyl-[1,2,4]-triazolo[1,5-a][1,3,5]triazine-5,7-diamine | 0.15 mmol | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)NCC2NCCC2)=N1 | C13H16N8O
reactant | 2,6-dichlorobenzaldehyde | 2 eq. | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | sodium triacetoxyborohydride | 4 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | N5-[1-(2,6-Dichloro-benzyl)-pyrrolidin-2-ylmethyl]-2-furan-2-yl-[1,2,4]triazolo[1,5-a][1,3,5]triazine-5,7-diamine | ClC1=C(CN2C(CCC2)CNC2=NC=3N(C(=N2)N)N=C(N3)C=3OC=CC3)C(=CC=C1)Cl | C20H20Cl2N8O
